US08183239B2
N-{3-Cyano-4-[4-(ethylcarbamoyl-phenyl-methyl)-piperidin-1-yl]-phenyl}-2-ethyl-butyramide
2-[1-(2-Cyano-4-nitro-phenyl)-piperidin-4-yl]-N-ethyl-2-phenyl-acetamide. To a solution of N-ethyl-2-phenyl-2-piperidin-4-yl-acetamide (500 mg, 2 mmol) and 2-fluoro-5-nitro-benzonitrile (337 mg, 2.03 mmol) in DMF was added K2CO3 (840 mg, 6.1 mmol). The solution was heated to 80° C. for 16 h. After cooling to rt, H2O and 3:1 EtOAc/hexanes were added. The organic portion was washed three times with H2O and once with brine, dried (Na2SO4) and concentrated to provide the title compound (yellow powder, 686 mg, 86%).

reactant | 2-[1-(2-Cyano-4-nitro-phenyl)-piperidin-4-yl]-N-ethyl-2-phenyl-acetamide | C(#N)C1=C(C=CC(=C1)[N+](=O)[O-])N1CCC(CC1)C(C(=O)NCC)C1=CC=CC=C1 | C22H24N4O3
reactant | N-ethyl-2-phenyl-2-piperidin-4-yl-acetamide | 2 mmol, 500 mg | C(C)NC(C(C1CCNCC1)C1=CC=CC=C1)=O | C15H22N2O
reactant | 2-fluoro-5-nitro-benzonitrile | 2.03 mmol, 337 mg | FC1=C(C#N)C=C(C=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | K2CO3 | 6.1 mmol, 840 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | N-{3-Cyano-4-[4-(ethylcarbamoyl-phenyl-methyl)-piperidin-1-yl]-phenyl}-2-ethyl-butyramide | 686 mg, 86% | C(#N)C=1C=C(C=CC1N1CCC(CC1)C(C1=CC=CC=C1)C(NCC)=O)NC(C(CC)CC)=O | C28H36N4O2
